US06242601B1
1.46 g of 5-methyl-pyridine-2-sulfonic acid [2-(3-benzyloxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide were dissolved in dioxane (25 ml) by gentle warming than ethanol (50 ml) was added followed by cyclohexadiene (6 g) and palladium on charcoal, 10%, (1.46 g). The solution was refluxed for 20 h, the catalyst removed by filtration and the solution concentrated on a rotary evaporator. The yellow crystalline solid that precipitated was collected, washed with ether and dried in a vacuum to give the desired 5-methyl-pyridine-2-sulfonic acid [2-(3-hydroxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide as off-white crystals. ISP mass spectrum, m/e 495.2 (M+1 calculated for C24H22N4O6S1: 495). Melting point 211°-216° C.

reactant | 5-methyl-pyridine-2-sulfonic acid [2-(3-benzyloxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | 1.46 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC)OC | C31H28N4O6S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | cyclohexadiene | 6 g | C1=CC=CCC1 | C6H8
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-methyl-pyridine-2-sulfonic acid [2-(3-hydroxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | OC=1C=C(C=CC1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C)OC1=C(C=CC=C1)OC)OC | C24H22N4O6S
